US05455237
3,6-bis(2,6-Difluorophenyl)-1,2,4,5-tetrazine
A solution of 0.12 g of sodium nitrite in 1 ml of water is added dropwise to the suspension of 0.4 g of 3,6-bis(2,6-difluorophenyl)-1,2-dihydro-1,2,4,5-tetrazine prepared in the preceeding step c.)] in 2.5 ml of glacial acetic acid at room temperature while stirring. The progress of the reaction is followed by thin layer chromatography. After filtration the carmine crystals are washed with water until neutral to give 0.34 g of desired product. This crude product is recrystallized from a mixture of gasoline and acetone to give 0.251 g of pure title product of Example 2, m.p.: 213.5° C.

reactant | sodium nitrite | 0.12 g | N(=O)[O-].[Na+]
reactant | 3,6-bis(2,6-difluorophenyl)-1,2-dihydro-1,2,4,5-tetrazine | 0.4 g | FC1=C(C(=CC=C1)F)C=1NNC(=NN1)C1=C(C=CC=C1F)F | C14H8F4N4
solvent | water | 1 ml | O | H2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 3,6-bis(2,6-Difluorophenyl)-1,2,4,5-tetrazine | 0.34 g | FC1=C(C(=CC=C1)F)C=1N=NC(=NN1)C1=C(C=CC=C1F)F | C14H6F4N4
